US06077853
2-Hydroxy-4-hydroxymethyl-benzonitrile
4-cyano-3-hydroxybenzoic acid methyl ester, Example 34, Step 3 (2.5 g, 14 mmol) was dissolved in THF (70 ml). LiBH4 in THF (2 M, 14 ml, 28 mmol) was added. The reaction mixture was heated to 70° C. for 60 hrs. The reaction mixture was quenched carefully with 3N HCl. The solvent was removed in vacuo and the crude material was purified by flash chromatography [10% MeOH(5% NH4OH)/CH2Cl2 ] to yield the desired product.

reactant | 4-cyano-3-hydroxybenzoic acid methyl ester | COC(C1=CC(=C(C=C1)C#N)O)=O | C9H7NO3
reactant | LiBH4 | [Li+].[BH4-]
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 28 mmol, 2 M, 14 ml | C1CCOC1 | C4H8O
product | 2-Hydroxy-4-hydroxymethyl-benzonitrile | OC1=C(C#N)C=CC(=C1)CO | C8H7NO2
